US06737425B1
63-3) [2-(4-Fluorophenylaminocarbonyl)ethyl]piperazine
1-Benzyl-4-[2-(4-fluorophenylaminocarbonyl)ethyl]piperazine (2.9 g) was dissolved in acetic acid (100 ml), then 10% palladium carbon (7.2 g) was added thereto, and the mixture was stirred overnight in a hydrogen atmosphere. The 10% palladium carbon was filtered off, and the filtrate was evaporated, and water was added to the residue which was then basified by adding 1 N aqueous sodium hydroxide and subjected to extraction with chloroform, and the organic layer was washed with water, dried, and evaporated, whereby the title compound (1.5 g, 70%) was obtained as a colorless oil.

reactant | 1-Benzyl-4-[2-(4-fluorophenylaminocarbonyl)ethyl]piperazine | 2.9 g | C(C1=CC=CC=C1)N1CCN(CC1)CCC(=O)NC1=CC=C(C=C1)F | C20H24FN3O
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | palladium carbon | 7.2 g | [C].[Pd]
product | [2-(4-Fluorophenylaminocarbonyl)ethyl]piperazine | 1.5 g, 70% | FC1=CC=C(C=C1)NC(=O)CCN1CCNCC1 | C13H18FN3O
